US06432949B1
Triethylamine (31.8 ml) was added to a stirred mixture of 4-methyl-3-nitroaniline (15.8 g), 2-chloropyridine4-carbonyl chloride (20 g) and methylene chloride (1 liter) and the resultant mixture was stirred at ambient temperature for 16 hours. The precipitate was isolated, washed with a saturated aqueous sodium bicarbonate solution and with methylene chloride and dried under vacuum at 40° C. There was thus obtained 2-chloro-N-(4-methyl-3-nitrophenyl)pyridine-4-carboxamide (10.2 g). The organic filtrate was washed with a saturated aqueous sodium bicarbonate solution, dried (MgSO4) and evaporated. The residue was triturated under methylene chloride and the resultant solid was isolated and dried under vacuum at 40° C. There was thus obtained a second crop (8.13 g) of 2-chloro-N-(4-methyl-3-nitrophenyl)pyridine-4-carboxamide; NMR Spectrum: (DMSOd6) 2.48 (s, 3H), 7.51 (d, 1H), 7.86 (m, 1H), 7.96 (m, 2H), 8.49 (m, 1H), 8.64 (m, 1H), 10.85 (s, 1H); Mass Spectrum: M+H+ 292 and 294.

reactant | Triethylamine | 31.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-3-nitroaniline | 15.8 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | 2-chloropyridine4-carbonyl chloride | 20 g | ClC1=NC=CC(=C1)C(=O)Cl | C6H3Cl2NO
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(4-methyl-3-nitrophenyl)pyridine-4-carboxamide | 8.13 g | ClC1=NC=CC(=C1)C(=O)NC1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H10ClN3O3
